US04826990
1,1,1-Trifluoro-N-[3-[[2-(4-methyoxyphenyl)-5-methyl-4-oxazolyl]methoxy]phenyl]methanesulfonamide
A solution of 8.0 g (0.026 mol) of 3-[[2-(4-methoxyphenyl)-5-methyl-4-oxazolyl]methoxy]benzenamine and 3.1 g (0.031 mol) of triethylamine in 10 ml of methylene chloride is cooled to -78° C. A solution of 7.9 g (0.028 mol) of trifluoromethanesulfonic anhydride in 100 ml of methylene chloride is added from a dropping funnel and the mixture is allowed to warm to room temperature. The solution is concentrated in vacuo and the residue is dissolved in 400 ml of ethyl acetate/400 ml of water. The ethyl acetate layer is dried over anhydrous magnesium sulfate, and concentrated to obtain 10.9 g (95%) of crystals. Recrystallization from acetone/hexane gives 3.8 g (35%) of crystals, m.p. 201°-203° C.

reactant | 3-[[2-(4-methoxyphenyl)-5-methyl-4-oxazolyl]methoxy]benzenamine | 0.026 mol, 8.0 g | COC1=CC=C(C=C1)C=1OC(=C(N1)COC=1C=C(C=CC1)N)C | C18H18N2O3
reactant | triethylamine | 0.031 mol, 3.1 g | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 0.028 mol, 7.9 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1,1,1-Trifluoro-N-[3-[[2-(4-methyoxyphenyl)-5-methyl-4-oxazolyl]methoxy]phenyl]methanesulfonamide | 10.9 g, 95% | FC(S(=O)(=O)NC1=CC(=CC=C1)OCC=1N=C(OC1C)C1=CC=C(C=C1)OC)(F)F | C19H17F3N2O5S
